### ISSUE TITLE
Bug: `step` hits `maxRecDepth` on bind goals with large continuations

### ISSUE THREAD

**Issue by sonmarcho** [AeneasVerif/aeneas#897]
## Summary

`step` overflows `maxRecDepth` (default 512) when processing a bind goal
`(do let r ← f args; g r ...) ⦃ P ⦄` where:

1. The continuation `g` is a `partial_fixpoint` recursive function with a complex body, **and**
2. The spec's preconditions cannot be trivially discharged from context
   (e.g., context has `≤ n * bound` but the spec requires `≤ 4 * bound`)

The manual workaround `apply WP.spec_bind (f_spec ...)` succeeds at default
`maxRecDepth` on the exact same goal.

## Reproduction

The reproducer is in `Mwe.lean` (see below). It defines:

- A sorry'd `@[step]` spec (`montgomery_reduce_and_add_spec'`) for a function `f`
  with two preconditions: `hSrc` (bound on array elements) and `hDst` (well-formedness)
- Three test theorems:

| Theorem | Goal shape | Preconditions | Result |
|---------|-----------|---------------|--------|
| `step_maxRecDepth_FAILS` | `do let r ← f ...; g r ...` | Non-trivial (need reasoning) | ✗ `maxRecDepth` |
| `step_maxRecDepth_OK_direct` | `f ...` (no bind) | Trivial | ✓ |
| `step_maxRecDepth_OK_trivial_cont` | `do let r ← f ...; .ok ()` | Trivial | ✓ |

Both conditions (large continuation **and** non-trivial preconditions) are required to trigger the overflow.
With trivially-dischargeable preconditions and a large continuation, `step` succeeds.

### `Mwe.lean`

```lean
import Symcrust.Code.Funs
import Symcrust.Properties.Basic
import Symcrust.Properties.Iterators

open Aeneas Aeneas.Std
open symcrust.mlkem.ntt (
  montgomery_reduce_and_add_poly_element_accumulator_to_poly_element
  matrix_vector_mont_mul_and_add_loop0)

private abbrev PolyArr := Std.Array U16 256#usize
private abbrev PolySlice := Slice PolyArr
private abbrev mulAccOneBound : ℕ := 3329 * 65535

noncomputable instance : Inhabited PolyArr :=
  ⟨⟨List.replicate 256 0#u16, by native_decide⟩⟩

private def wfArray (pe : PolyArr) : Prop :=
  ∀ i, i < 256 → pe.val[i]!.val < 3329

private def wfSlice (ps : PolySlice) : Prop :=
  ∀ i, i < ps.length → wfArray ps.val[i]!

set_option maxHeartbeats 1600000 in
@[step]
theorem montgomery_reduce_and_add_spec'
    (pa_tmp : Std.Array Std.U32 256#usize)
    (pe_dst : PolyArr)
    (hSrc : ∀ i, i < 256 → pa_tmp.val[i]!.val ≤ 4 * mulAccOneBound)
    (hDst : wfArray pe_dst) :
    montgomery_reduce_and_add_poly_element_accumulator_to_poly_element pa_tmp pe_dst
    ⦃ (_pa_tmp', pe_dst') =>
      wfArray pe_dst' ∧
      ∀ i, i < 256 →
        (pe_dst'.val[i]!.val : Symcrust.Spec.Zq) =
          (pa_tmp.val[i]!.val : Symcrust.Spec.Zq) * ((2 ^ 16 : Symcrust.Spec.Zq)⁻¹) +
          (pe_dst.val[i]!.val : Symcrust.Spec.Zq) ⦄ := by
  unfold montgomery_reduce_and_add_poly_element_accumulator_to_poly_element
  sorry

-- FAILS: bind + large continuation + non-trivial preconditions
set_option maxHeartbeats 6400000 in
theorem step_maxRecDepth_FAILS
    (iter : core.ops.range.Range Usize)
    (pm_src1 pv_src2 pv_dst : PolySlice)
    (n_rows : Usize) (hn : n_rows.val ≤ 4)
    (hDstWf : wfSlice pv_dst) (hlt : iter.start.val < iter.end.val)
    (hlen_dst : pv_dst.length = n_rows.val)
    (hend : iter.end.val ≤ n_rows.val)
    (next : Option Usize × core.ops.range.Range Usize)
    (pa_tmp1 : Std.Array U32 256#usize)
    (hpa : ∀ k, k < 256 → pa_tmp1.val[k]!.val ≤ n_rows.val * mulAccOneBound) :
    (do
      let result ←
        montgomery_reduce_and_add_poly_element_accumulator_to_poly_element
          pa_tmp1 pv_dst.val[iter.start.val]!
      matrix_vector_mont_mul_and_add_loop0 next.2 pm_src1 pv_src2
        (Slice.set pv_dst iter.start result.2) result.1 n_rows)
    ⦃ _x => True ⦄ := by
  step  -- ERROR: maximum recursion depth has been reached
  all_goals sorry

-- OK: direct call (no bind)
set_option maxHeartbeats 6400000 in
theorem step_maxRecDepth_OK_direct
    (iter : core.ops.range.Range Usize)
    (pv_dst : PolySlice)
    (hDstWf : wfSlice pv_dst) (hlt : iter.start.val < iter.end.val)
    (hend : iter.end.val ≤ pv_dst.length)
    (pa_tmp1 : Std.Array U32 256#usize)
    (hpa : ∀ k, k < 256 → pa_tmp1.val[k]!.val ≤ 4 * mulAccOneBound) :
    montgomery_reduce_and_add_poly_element_accumulator_to_poly_element
      pa_tmp1 pv_dst.val[iter.start.val]!
    ⦃ _x => True ⦄ := by
  step
  all_goals sorry

-- OK: bind with trivial continuation
set_option maxHeartbeats 6400000 in
theorem step_maxRecDepth_OK_trivial_cont
    (iter : core.ops.range.Range Usize)
    (pv_dst : PolySlice)
    (hDstWf : wfSlice pv_dst) (hlt : iter.start.val < iter.end.val)
    (hend : iter.end.val ≤ pv_dst.length)
    (pa_tmp1 : Std.Array U32 256#usize)
    (hpa : ∀ k, k < 256 → pa_tmp1.val[k]!.val ≤ 4 * mulAccOneBound) :
    (do
      let _result ←
        montgomery_reduce_and_add_poly_element_accumulator_to_poly_element
          pa_tmp1 pv_dst.val[iter.start.val]!
      .ok ())
    ⦃ _x => True ⦄ := by
  step
  all_goals sorry
```
